US07884124B2
Under N2, to methyl 6-[(dimethylamino)methyl]-4H-thieno[3,2-b]pyrrole-5-carboxylate (0.34 g, 1.45 mmol) was added methyl iodide (1.48 mL, 2.37 mmol). The mixture was allowed to stand at rt for 1 h, and then the methyl iodide was removed. The resulting salt was dissolved in absolute methanol (5 mL). To this solution was carefully added sodium borohydride (1.23 g, 3.25 mmol) in small portions. After the addition was complete, the reaction mixture was diluted to a volume of 25 mL by the addition of 3N hydrochloric acid. The mixture was stored in the refrigerator overnight, and then the blue precipitate was dissolved in boiling methylcyclohexane, and the solution was treated with Darco (activated carbon) and filtered. The filtrate was evaporated and purified by chromatography over silica gel (0 to 40% EtOAc in heptane over 30 min) to give methyl 6-methyl-4H-thieno[3,2-b]pyrrole-5-carboxylate (0.12 g, 43%). 1H NMR (400 MHz, CDCl3) δ ppm 2.53 (s, 3H) 3.91 (s, 3H) 6.92 (d, J=5.27 Hz, 1H) 7.32 (d, J=5.32 Hz, 1H) 8.81 (s, 1H).

reactant | methyl 6-[(dimethylamino)methyl]-4H-thieno[3,2-b]pyrrole-5-carboxylate | 1.45 mmol, 0.34 g | CN(C)CC=1C2=C(NC1C(=O)OC)C=CS2 | C11H14N2O2S
reactant | methyl iodide | 2.37 mmol, 1.48 mL | CI | CH3I
reactant | sodium borohydride | 3.25 mmol, 1.23 g | [BH4-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | methylcyclohexane | CC1CCCCC1 | C7H14
reactant | Darco | C | CH4
product | methyl 6-methyl-4H-thieno[3,2-b]pyrrole-5-carboxylate | 0.12 g, 43% | CC=1C2=C(NC1C(=O)OC)C=CS2 | C9H9NO2S
